US06403610B1
1 drop of 5N aqueous sodium hydroxide solution and then, portionwise, 0.17 g of sodium borohydride were added, with stirring, to a solution, maintained at a temperature in the region of 20 ° C., of 0.84 g of methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-acetate in 12 cm3 of methanol. The mixture was stirred for 3 hours at a temperature in the region of 20° C. After adding 10 cm3 of water, the methanol was evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained was extracted with 2 times 20 cm3 of dichloromethane and then the combined extracts were washed with 2 times 30 cm3 of water, dried over magnesium sulfate, filtered, and concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. An oil was obtained, which oil was purified by chromatography at atmospheric pressure on a column of silica gel (particle size 20-45 μm; diameter 2.5 cm; silica volume 150 cm3), elution was carried out with a dichloromethane/methanol (99/1 by volume) mixture. Fractions 56 to 115 were combined and then concentrated as above. An oil was obtained, the hydrochloride of which was prepared in the following way: the oil was dissolved in 20 cm3 of diethyl ether and then poured onto 2 cm3 of a 1 N solution of hydrochloric acid in ether. The precipitate formed was filtered off and dried in an oven under reduced pressure (10 Pa) at a temperature in the region of 40° C. 0.3 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-acetate dihydrochloride was obtained in the form of a white solid.

reactant | sodium borohydride | 0.17 g | [BH4-].[Na+]
reactant | methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-acetate | 0.84 g | O=C(CC[C@H]1[C@H](CN(CC1)CCSC=1SC=CC1)CC(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C27H32N2O4S2
reactant | water | 10 cm3 | O | H2O
reactant | hydrochloric acid | Cl | ClH
catalyst | sodium hydroxide | 5N, 1 drop | [OH-].[Na+]
solvent | methanol | 12 cm3 | CO | CH4O
solvent | diethyl ether | 20 cm3 | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-acetate dihydrochloride | 0.3 g | Cl.Cl.OC(CC[C@H]1[C@H](CN(CC1)CCSC=1SC=CC1)CC(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | InChI=1S/C27H34N2O4S2.2ClH/c1-32-21-6-7-24-23(17-21)22(9-11-28-24)25(30)8-5-19-10-12-29(18-20(19)16-26(31)33-2)13-15-35-27-4-3-14-34-27;;/h3-4,6-7,9,11,14,17,19-20,25,30H,5,8,10,12-13,15-16,18H2,1-2H3;2*1H/t19-,20+,25?;;/m1../s1
